US08071766B2
To a solution of (R,Z)-2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-one O-2-morpholinoethyl oxime (100 mg, 0.21 mmol) in DMA was added 6-methoxypyridine-2-boronic acid N-phenyldiethanolamine ester (250 mg, 0.84 mmol), Pd(dppf)2Cl2 (17 mg, 0.02 mmol), and 2N Na2CO3 (522 μL, 1.05 mmol). The resultant mixture was degassed with N2 for 5 min then heated in a sealed tube at 85° C. for 14 h. The reaction was allowed to cool to r.t. and filtered through a pad of Celite topped with anhydrous Na2SO4, rinsing with EtOAc and CH3OH. The filtrate was concentrated to provide a brown residue which was purified by preparative HPLC eluting with TFA/ACN/H2O. The solvent was removed on a rotary evaporator and the sample was dried under high vacuum to yield (R,Z)-2-amino-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-one O-2-morpholinoethyl oxime (67.4 mg, 0.13 mmol). 1H NMR (400 MHz, CHLOROFORM-d) δ 2.81 (s, 3H), 2.95 (td, J=11.87, 3.79 Hz, 2H), 3.12 (dd, J=17.18, 9.60 Hz, 1H), 3.34-3.56 (m, 3H), 3.70 (dd, J=11.75, 3.41 Hz, 2H), 3.84-4.06 (m, 7H), 4.39 (t, J=4.80 Hz, 2H), 4.94 (dd, J=9.60, 4.04 Hz, 1H), 6.81 (d, J=8.34 Hz, 1H), 7.06 (d, J=7.07 Hz, 1H), 7.08-7.21 (m, 2H), 7.50 (dd, J=8.59, 5.31 Hz, 1H), 7.68-7.81 (m, 1H). [M+H] calc'd for C26H30FN7O3, 508. found, 508.

reactant | (R,Z)-2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-one O-2-morpholinoethyl oxime | 0.21 mmol, 100 mg | O1CCN(CC1)CCO\N=C\1/N[C@H](CC=2N=C(N=C(C21)C)N)C2=C(C=C(C=C2)F)Br | C20H24BrFN6O2
reactant | 6-methoxypyridine-2-boronic acid N-phenyldiethanolamine ester | 0.84 mmol, 250 mg | B1(OCCN(CCO1)C2=CC=CC=C2)C3=NC(=CC=C3)OC | C16H19BN2O3
reactant | Na2CO3 | 1.05 mmol, 2N, 522 μL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMA | CC(=O)N(C)C | C4H9NO
catalyst | Pd(dppf)2Cl2 | 0.02 mmol, 17 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (R,Z)-2-amino-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-one O-2-morpholinoethyl oxime | 0.13 mmol, 67.4 mg | O1CCN(CC1)CCO\N=C\1/N[C@H](CC=2N=C(N=C(C21)C)N)C2=C(C=C(C=C2)F)C2=NC(=CC=C2)OC | C26H30FN7O3
